US05068334
1-propyl-7,8-dihydro-2,5(1H,6H)-quinolinedione Melting point: 69°-70° C.
1-tetrahydrofurfuryl-7,8-dihydro-2,5(1H,6H)-quinolinedione oil, Rf-value: 0.58 (Polygram silica gel plates SIL G/UV254 of Messrs. Machery-Nagel, system: chloroform/ethanol=19/1 by volume).

reactant | 1-tetrahydrofurfuryl-7,8-dihydro-2,5(1H,6H)-quinolinedione | C(C1CCCO1)N1C(C=CC=2C(CCCC12)=O)=O | C14H17NO3
solvent | chloroform ethanol | C(Cl)(Cl)Cl.C(C)O
product | 1-propyl-7,8-dihydro-2,5(1H,6H)-quinolinedione | C(CC)N1C(C=CC=2C(CCCC12)=O)=O | C12H15NO2
